US08003662B2
Step C: Preparation of N-(3-fluoro-4-(2-(4-(methylcarbamoyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide:
A round-bottomed flask was charged with N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide (15.0 mg, 0.030 mmol), 4-(methyl carbamoyl)phenylboronic acid (16.2 mg, 0.091 mmol), tetrakis(triphenylphosphine)palladium (6.97 mg, 0.0060 mmol), Na2CO3 (0.0754 ml, 0.15 mmol) and DME (10 mL). The reaction mixture was stirred at 100° C. until the starting material had been consumed (4 hours). Then the reaction mixture was cooled to room temperature and partitioned between EtOAc (100 mL) and H2O (100 mL). The phases were separated and the aqueous phase was re-extracted with EtOAc (3×100 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude product. The crude product was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product (3.6 mg, 23.7%). LRMS (APCI pos): >99% purity, 254 nm, m/e 505 (M+1). 1H NMR (400 MHz, CD3OD) δ 8.47 (d, 1H), 7.84-8.00 (m, 6H), 7.32-7.46 (m, 2H), 6.65 (d, 1H), 3.38-3.56 (m, 3H), 2.95 (s, 3H), 2.34-2.62 (m, 2H).

reactant | N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide | 0.030 mmol, 15.0 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)NC(=O)C2C(NCC2)=O | C18H13FIN3O3S
reactant | 4-(methyl carbamoyl)phenylboronic acid | 0.091 mmol, 16.2 mg | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | Na2CO3 | 0.15 mmol, 0.0754 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.0060 mmol, 6.97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 10 mL | COCCOC | C4H10O2
product | N-(3-fluoro-4-(2-(4-(methylcarbamoyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide | 3.6 mg, 23.7% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)C(NC)=O)NC(=O)C2C(NCC2)=O | C26H21FN4O4S
